US08404676B2
Intermediate 19: Methyl 3-methyl-4-(4-methyl-3-thienyl)benzoate
A suspension of methyl 4-bromo-3-methylbenzoate (ABCR AV19078; 3 g; 13.10 mmol; 1 eq.), 4-methyl-3-thiopheneboronic acid (Aldrich 542393; 2.05 g; 14.41 mmol; 1.10 eq.), potassium carbonate (9.05 g; 65.48 mmol; 5 eq.) and tetrakis(triphenylphosphine)palladium(0) (1.51 g; 1.31 mmol; 0.10 eq.) in toluene (15 mL) and water (15 mL) was refluxed for 3 hours. The resulting mixture was filtered through a short pad of Celite, which was further washed with toluene. After evaporation of the solvent, the residue taken up in ethyl acetate and washed successively with sat. aq. NaHCO3, water and brine, dried over magnesium sulfate and concentrated in vacuo to afford the title compound (2.96 g, 92%) as a brown oil.

reactant | methyl 4-bromo-3-methylbenzoate | 13.10 mmol, 3 g, 1 eq. | BrC1=C(C=C(C(=O)OC)C=C1)C | C9H9BrO2
reactant | 4-methyl-3-thiopheneboronic acid | 14.41 mmol, 2.05 g, 1.10 eq. | CC=1C(=CSC1)B(O)O | C5H7BO2S
reactant | potassium carbonate | 65.48 mmol, 9.05 g, 5 eq. | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 15 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.31 mmol, 1.51 g, 0.10 eq. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 3-methyl-4-(4-methyl-3-thienyl)benzoate | 2.96 g, 92% | CC=1C=C(C(=O)OC)C=CC1C1=CSC=C1C | C14H14O2S
